US04472383
N-[1(R)-Ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(2-indanyl)glycyl-L-phenylalanine tert-butyl ester (0.2 g) is dissolved in 0.5 ml of acetic acid and shaken with 1 ml of 30% hydrogen bromide in acetic acid for 10 minutes, followed by addition of 50 ml of ether and 50 ml of petroleum ether. The supernatant is decanted off and petroleum ether is added to the residue. The solid substance is collected by filtration and dried to give 0.18 g of N-[1(R)-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(2-indanyl)glycyl-L-phenylalanine hydrobromide as powder.

reactant | N-[1(R)-Ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(2-indanyl)glycyl-L-phenylalanine tert-butyl ester | 0.2 g | C(C)(C)(C)OC([C@@H](NC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N[C@H](CCC1=CC=CC=C1)C(=O)OCC)C)=O)=O)CC1=CC=CC=C1)=O | C39H49N3O6
reactant | hydrogen bromide | 1 ml | Br | BrH
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | N-[1(R)-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(2-indanyl)glycyl-L-phenylalanine hydrobromide | 0.18 g | Br.C(C)OC(=O)[C@@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C1CC2=CC=CC=C2C1 | InChI=1S/C35H41N3O6.BrH/c1-3-44-35(43)30(19-18-25-12-6-4-7-13-25)36-24(2)33(40)38(29-21-27-16-10-11-17-28(27)22-29)23-32(39)37-31(34(41)42)20-26-14-8-5-9-15-26;/h4-17,24,29-31,36H,3,18-23H2,1-2H3,(H,37,39)(H,41,42);1H/t24-,30+,31-;/m0./s1
